data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4684,"CC(=O)[O-].CCOC(=O)C=CC1=C([CH:1]([OH:2])[OH+:3]CCCO)C(F)=CC=C1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1038,"CC[C:1]1(C2=CC=CC=C2)OCC[OH+:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,6948,"C1=CC=C([CH:1]=[O:2])C=C1.CCO[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7693,"CC(C)[C:1]1([H:2])C=C[C+:3](CBr)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,4785,"C1=C[NH+]=CN1.COC1OC2COC(C3=CC=CC=C3)OC2C([I:1])[CH:2]1[I:3].O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4473,"CC1=CC(C)=[N:1]C(C)=C1.CC1=CC2=C(CC(C)(C)C2=C([O-])[O+:2](CC2=CC=CC=C2)[H:3])O1.N#N|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7445,"N=C1NC=C[C:1](=[NH2+:2])[NH:3]1.O.[C-]#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9625,"COC1=C([O-:1])C2=C(C=C1)CC1N(CC3CCC3)CCC23C=CCCC13O.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6110,"COC1=C(O)C2=C(C=C1)CC1C3C[CH:1]([OH+:2]C)C(O)=CC23CCN1C1CCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,7530,"CC(=O)[O:1][H:2].COC(=O)[C-](C(=O)O)C(CC1=CC=CC=C1)[N:3]1CCCCC1.[OH3+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1917,"CC(C)CC(C(=O)NCC(=O)O)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8574,"CC[C:1]([C:2](C)(C)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8518,"CC1C2=C(C=CC=C2)NC1[C:1]1([H:2])NC2=C(C=CC=C2)[C+:3]1C.O=C(C(F)(F)F)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3912,"CO[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6861,"CCCC[B:1](CCCC)[O+]=C(C(C)C(C1=CC=CC=C1)[O-:2])N1C(=O)OCC1CC1=CC=CC=C1|(2, 1)"
train,pmechdb_split_0,0,10237,"O[CH:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5271,"C[Si](C)(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6619,"C[CH:1]([N:2](C)C)[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2458,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,6801,"CC(C)C[C:1](C(C)C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9222,"CCOC1(O)CCCC(C2=CC=CC=C2)[O+:1]1[H:2].O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3298,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C2([OH:1])CC=C(C)N2)=C1.CC(=O)[O:2][H:3].O.O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3516,"CCCC[N+](CCCC)(CCCC)CCCC.CC[O:1][Si-:2](C)(C)(C)O.O|((2, 1), 1)"
train,pmechdb_split_0,0,8652,"CC([O-])=CCC[C:1](C)([NH+:2]1CCCC1)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7727,"C1=CC=NC=C1.CCOC(=O)C[C:1](Cl)=[O:2].NC(=S)N[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7865,"CC(=O)[O-:1].CCCCOCC1OC=C(C[C:2]2([H:3])C=C(C)C=C[C+:4]2O)C(OCCCC)C1OCCCC.FB(F)F|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,440,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC(Cl)=C[C:2](S(=O)(=O)O)([H:3])[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,7001,"CCCCC(=O)C1CCC2C3CCC4CC([O:1][H:2])CCC4(C)C3CCC12C.CCCC[P+](CCCC)(CCCC)SC1=CC=C(Cl)C=C1.O=C1CCC(=O)[N-:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6226,"CC([O-])(Cl)[NH+:1](C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5167,"CON1C(=O)C2(CC([C:1](Cl)=[O:2])C3COC2C(=O)C3)C2=C1C=CC=C2.[N-]=[N+]=[N-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4687,"[CH2+:1][OH:2]|(2, 1)"
train,pmechdb_split_0,0,1965,"C[CH:1]=[O+:2]CC[NH:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1501,"C=C(Br)CC1OC1C(C[C+:1](C(C)COCC1=CC=C(OC)C=C1)[CH2:2][Si-:3](C)(C)(C)[O+](CC)CC)O[B-](F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,8548,"CCC1(CCC2=CC3=C(C=CC=C3)N2)CCCN(C(=O)CCl)C1[OH:1].O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8430,"[H:1][NH3+:2].[O-]CC#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2975,"NC1=C(CC#[C-:1])C=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4088,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C(C(F)(F)F)[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,8609,"CCCC1=C(CC)C(C)=CC=C1SC(CC)(CC)C1(C)C(Cl)=C[P:1]2(=[O+:2]1)OC[CH:3](C)[O:4]2.[Cl-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3624,"CC=C[CH2:1][I:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2982,"CC[N:1](CC)CC.C[C:2](C)([H:3])[C:4](=O)[Cl:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4554,"CC1=C[C:1]([N+](=O)[O-])([H:2])[C+:3](C)O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2004,"CO.COC1=C([OH:1])C2=C(C=C1)CC1C3CC=C(O)[CH+:2]C23CCN1C1=CC=CC=C1.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,6792,"CC(O)[NH:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6102,"CCO[B-](F)(F)F.C[Si](C)(C)C[C:1]#[C:2]C.O=C1CC[CH:3]=[NH+:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5644,"C=C(C(O)[N:1](C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C1(C(=O)OCC)NS(=O)(=O)C2=C1C=CC=C2.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4864,"CC[C:1](=[O:2])[CH:3]=[CH2:4].O[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
